US08008487B2
Preparation of 4-Methoxy-3-methylacetophenone (Compound 188)
To a suspension of sodium hydride (60 percent in mineral oil, 1.44 g, 36 mmol) in anhydrous DMF (30 mL) was added dropwise a solution of 4-hydroxy-3-methylacetophenone (4.5 g, 30 mmol) in dry DMF (20 mL) at 0° C. over a period of 20 minutes. After addition, the mixture was stirred at 0° C. for 30 minutes and iodomethane (2.2 mL, 36 mmol) was added in one portion. The mixture was then stirred at approximately 25° C. overnight. Water was added (10 mL) and the mixture was extracted with ether three times. The combined organic layer was washed with brine, dried over Na2SO4, filtered, concentrated, and dried under vacuum to give crude product as a colorless oil.

reactant | sodium hydride | 36 mmol, 1.44 g | [H-].[Na+]
reactant | 4-hydroxy-3-methylacetophenone | 30 mmol, 4.5 g | CC1=C(C=CC(=C1)C(=O)C)O | C9H10O2
reactant | iodomethane | 36 mmol, 2.2 mL | IC | CH3I
reactant | Water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 4-Methoxy-3-methylacetophenone | CC1=C(C=CC(=C1)C(=O)C)OC | C10H12O2
